* Auto TB for Error_amplifier_Folded
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
**.subckt LDO_Folded_1.8v Vin GND Vout
*.ipin Vin
*.ipin GND
*.opin Vout
XR1 net1 Vout GND sky130_fd_pr__res_xhigh_po W=1 L=40 mult=1 m=1
XR2 GND net1 GND sky130_fd_pr__res_xhigh_po W=1 L=50 mult=1 m=1
XC1 Vout net1 sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=1 m=1
XM1 Vout net3 Vin Vin sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1000 m=1000 
x1 Vin net3 net1 net2 net2 GND Error_amplifier_Folded
x2 net2 Vin GND Bandgap1.8v
**.ends

* expanding   symbol:
*+  /home/eslam/Analog_blocks/Analog_Blocks/LDO/Schematic/LDO_Folded_1.8v/Error_amplifier_Folded.sym # of pins=6
* sym_path:
*+ /home/eslam/Analog_blocks/Analog_Blocks/LDO/Schematic/LDO_Folded_1.8v/Error_amplifier_Folded.sym
* sch_path:
*+ /home/eslam/Analog_blocks/Analog_Blocks/LDO/Schematic/LDO_Folded_1.8v/Error_amplifier_Folded.sch
.subckt Error_amplifier_Folded  VDD Vout Vp Vn Ibias GND
*.ipin VDD
*.ipin GND
*.ipin Vp
*.ipin Vn
*.opin Vout
*.ipin Ibias
XM1 net3 Vp net1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=5 m=5 
XM2 net2 Vn net1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=5 m=5 
XM9 Vout net4 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM4 net3 net5 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM3 net1 Ibias GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM8 net4 net4 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM10 Ibias Ibias GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM11 net5 Ibias GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM12 net6 Ibias GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM13 net5 net5 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM14 net6 net6 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM5 net2 net5 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM6 net4 net6 net3 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2 
XM7 Vout net6 net2 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2 
.ends


* expanding   symbol:
*+  /home/eslam/Analog_blocks/Analog_Blocks/LDO/Schematic/LDO_Miller_1.8v/Bandgap1.8v.sym # of pins=3
* sym_path: /home/eslam/Analog_blocks/Analog_Blocks/LDO/Schematic/LDO_Miller_1.8v/Bandgap1.8v.sym
* sch_path: /home/eslam/Analog_blocks/Analog_Blocks/LDO/Schematic/LDO_Miller_1.8v/Bandgap1.8v.sch
.subckt Bandgap1.8v  Vref VDD GND
*.opin Vref
*.ipin VDD
*.ipin GND
XQ1 GND GND net3 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ2 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ3 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ4 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ5 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ6 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ7 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ8 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ9 GND GND net1 GND sky130_fd_pr__pnp_05v5_W0p68L0p68
XR1 net1 net2 GND sky130_fd_pr__res_xhigh_po W=1 L=2 mult=1 m=1
XR2 net2 Vref GND sky130_fd_pr__res_xhigh_po W=1 L=6.5 mult=1 m=1
XR3 net3 Vref GND sky130_fd_pr__res_xhigh_po W=1 L=6.5 mult=1 m=1
XM2 net4 net5 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM3 net3 net4 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM1 net4 net5 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=20 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
x1 VDD Vref net3 net2 net5 GND Bandgap1.8v_OTA
.ends


* expanding   symbol:
*+  /home/eslam/Analog_blocks/Analog_Blocks/Bandgap/Schematics/BGR1.8v/Bandgap1.8v_OTA.sym # of pins=6
* sym_path: /home/eslam/Analog_blocks/Analog_Blocks/Bandgap/Schematics/BGR1.8v/Bandgap1.8v_OTA.sym
* sch_path: /home/eslam/Analog_blocks/Analog_Blocks/Bandgap/Schematics/BGR1.8v/Bandgap1.8v_OTA.sch
.subckt Bandgap1.8v_OTA  Vdd Ibias Vn Vp Vhigh Vn
*.opin Ibias
*.ipin Vhigh
*.ipin Vdd
*.ipin Gnd
*.ipin Vp
*.ipin Vn
XM6 Ibias Vhigh Vdd Vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5 
XM5 net3 Vhigh Vdd Vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=5 m=5 
XM1 net2 Vn net3 Vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=9 m=9 
XM8 Vhigh net1 Gnd Gnd sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4 
XM4 net1 net2 Gnd Gnd sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=3 m=3 
XM3 net2 net2 Gnd Gnd sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=3 m=3 
XC1 net1 Vhigh sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=1 m=1
XM2 net1 Vp net3 Vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=9 m=9 
XM7 Vhigh Vhigh Vdd Vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10 
.ends

** flattened .save nodes
.end


Vdd VDD 0 DC 1.8
Vss Vn 0 DC 0
X1 VDD Vout Vp Vn Ibias GND Error_amplifier_Folded
.op
.control
op
.endc
.end
